US07300931B2
Synthesis of N-benzyl-2-(5-bromopyridin-2-yl)acetamide:
A flask was charged with 5-(5-bromopyridin-2(1H)-ylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione (1.039 g, 3.46 mmol), benzylamine (0.50 mL, 4.58 mmol), and toluene (20 mL). The reaction was brought to reflux under nitrogen for 18 hours, then cooled and placed in a freezer until cold. The product was collected by filtration and washed with hexanes to yield a mass of bright white crystals (1.018 g, 96%).

reactant | 5-(5-bromopyridin-2(1H)-ylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 3.46 mmol, 1.039 g | BrC=1C=CC(NC1)=C1C(OC(OC1=O)(C)C)=O | C11H10BrNO4
reactant | benzylamine | 4.58 mmol, 0.50 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | N-benzyl-2-(5-bromopyridin-2-yl)acetamide | 1.018 g, 96% | C(C1=CC=CC=C1)NC(CC1=NC=C(C=C1)Br)=O | C14H13BrN2O
